US05409943
a) 2-Amino-3-(4-methylbenzyloxy)pyridine
A mixture of 2-amino-3-hydroxypyridine (2.7 g, 0.024 mol), dichloromethane (40 ml) and 40% aqueous sodium hydroxide solution (40 ml) was stirred for 5 rains, then 4methylbenzyl bromide (4.51 g, 0.024 mol) and Adogen 464 (3 ml) were added and stirring was continued for 16 hours. The mixture was diluted with water and extracted with dichloromethane (×2), and the combined organic layers dried, evaporated, and triturated with ether. Yield 2.92 g (56%), m.p. 123° 125 ° C.

reactant | 2-amino-3-hydroxypyridine | 0.024 mol, 2.7 g | NC1=NC=CC=C1O | C5H6N2O
reactant | dichloromethane | 40 ml | ClCCl | CH2Cl2
reactant | sodium hydroxide | 40 ml | [OH-].[Na+]
reactant | 4methylbenzyl bromide | 0.024 mol, 4.51 g | CC1=CC=C(CBr)C=C1 | C8H9Br
catalyst | Adogen 464 | 3 ml | CCCCCCCC[N+](C)(CCCCCCCC)CCCCCCCC.[Cl-]
solvent | water | O | H2O
product | 2-Amino-3-(4-methylbenzyloxy)pyridine | NC1=NC=CC=C1OCC1=CC=C(C=C1)C | C13H14N2O
